US07507739B2
To a 0.5 M solution of 9-borabicyclo[3.3.1]nonane (9-BBN) in tetrahydrofuran (95 mL, 47.6 mmol) is added dropwise 3-butene-1-ol (4.1 mL, 47.6 mmol), and the mixture is stirred under nitrogen atmosphere at room temperature for 6 h. The resulting solution is then transferred by a double-ended needle into a mixture of diethyl 2-(2,6-difluoro-4-{[(trifluoromethyl)sulfonyl]oxy}phenyl)malonate (10.0 g, 23.8 mmol), potassium phosphate (10.1 g, 47.6 mmol), and tetrakis(triphenylphosphine)palladium(0) (825 mg, 0.714 mmol) in 40 mL of dioxane under nitrogen pressure. The mixture is then heated at 90° C. for 8 h. The reaction is cooled to room temperature, and trimethylamine-N-oxide (3.57 g, 47.6 mmol) is added. The reaction is heated at 80° C. for 1 h and cooled to room temperature. Ethyl acetate is added to dilute the reaction. The organic phase is washed with saturated sodium chloride (x2), dried over magnesium sulfate, and concentrated to a residue. The residue is chromatographed over silica gel, eluting with a gradient of 10% ethyl acetate in hexanes to 50% ethyl acetate in hexanes. Concentration provides diethyl 2-[2,6-difluoro-4-(4-hydroxybutyl)phenyl]malonate as a brown oil (3.5 g). MS: m/z 345.2 (M+H).

reactant | 9-borabicyclo[3.3.1]nonane | C12CCCC(CCC1)B2 | C8H15B
reactant | tetrahydrofuran | 47.6 mmol, 95 mL | O1CCCC1 | C4H8O
reactant | 3-butene-1-ol | 47.6 mmol, 4.1 mL | C(CC=C)O | C4H8O
reactant | diethyl 2-(2,6-difluoro-4-{[(trifluoromethyl)sulfonyl]oxy}phenyl)malonate | 23.8 mmol, 10.0 g | FC1=C(C(=CC(=C1)OS(=O)(=O)C(F)(F)F)F)C(C(=O)OCC)C(=O)OCC | C14H13F5O7S
reactant | potassium phosphate | 47.6 mmol, 10.1 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | trimethylamine-N-oxide | 47.6 mmol, 3.57 g | C[N+](C)(C)[O-] | C3H9NO
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.714 mmol, 825 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | diethyl 2-[2,6-difluoro-4-(4-hydroxybutyl)phenyl]malonate | 3.5 g | FC1=C(C(=CC(=C1)CCCCO)F)C(C(=O)OCC)C(=O)OCC | C17H22F2O5
